US04711890
A 1.6M solution of butyllithium in hexane (22.5 ml) is added, at ambient temperature and under a nitrogen atmosphere, to diethylamine (5.5 ml) in anhydrous tetrahydrofuran (50 ml). After stirring for 15 minutes, the mixture is cooled to 0° C. and ethyl 2-(4-methylphenyl)-quinoline-4-carboxylate (5.25 g) is then introduced slowly. The mixture is stirred for 2 hours at ambient temperature. Acetic acid is then added slowly, at ambient temperature and with stirring, until decolouration takes place and a yellow solution is obtained. Water (100 ml) is then added, the tetrahydrofuran is evaporated off under reduced pressure and the residue is extracted with ethyl acetate (3×100 ml). The organic phase is washed with water, dried over magnesium sulphate and evaporated under reduced pressure. The residue is chromatographed on silica gel with a cyclohexane/ethyl acetate mixture (80/20) as the eluant. After recrystallisation from isopropyl ether of the crude product isolated in this way, N,N-diethyl-2-(4-methylphenyl)-quinoline-4-carboxamide (1.1 g), melting at 145° C., is obtained.

reactant | butyllithium | C(CCC)[Li]
reactant | diethylamine | 5.5 ml | C(C)NCC | C4H11N
reactant | ethyl 2-(4-methylphenyl)-quinoline-4-carboxylate | 5.25 g | CC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)OCC | C19H17NO2
reactant | Acetic acid | C(C)(=O)O | C2H4O2
solvent | hexane | 22.5 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
product | N,N-diethyl-2-(4-methylphenyl)-quinoline-4-carboxamide | 1.1 g | C(C)N(C(=O)C1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)C)CC | C21H22N2O
